US05013477
A solution of 996 mg of trans-4-[trans-4-(4-pentenyl)cyclohexyl]cyclohexanecarboxylic acid in 80 ml of methylene chloride was treated with 752 mg of p-fluorophenol, 61 mg of 4-(dimethylamino)pyridine and 1.03 g of dicyclohexylcarbodiimide and stirred at room temperature for 15 hours. The reaction mixture was subsequently filtered. The filtrate was evaporated and the residue obtained was purified by chromatography on silica gel with ethyl acetate/petroleum ether (vol. 3:97). Crystallization of the product obtained (1.24 g) from 40 ml of hexane gave 757 mg of pure trans-4-[trans-4-(4-pentenyl)cyclohexyl]cyclohexanecarboxylic acid 4-fluorophenyl ester with m.p. (C-N) 70.3° C. and cl.p. (N-I) 158.7° C.

reactant | trans-4-[trans-4-(4-pentenyl)cyclohexyl]cyclohexanecarboxylic acid | 996 mg | C(CCC=C)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)C(=O)O | C18H30O2
reactant | p-fluorophenol | 752 mg | FC1=CC=C(C=C1)O | C6H5FO
reactant | dicyclohexylcarbodiimide | 1.03 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-(dimethylamino)pyridine | 61 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | trans-4-[trans-4-(4-pentenyl)cyclohexyl]cyclohexanecarboxylic acid 4-fluorophenyl ester | 757 mg | FC1=CC=C(C=C1)OC(=O)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)CCCC=C | C24H33FO2
